US05229413
3-Hydroxymethylindole-2-carboxylic acid (Compound No. 12)
Ethyl indole-2-carboxylate (5.87 gm) in absolute ethanol (85 ml) was combined with potassium carbonate (4.3 gm) and 37% formaldehyde (2.6 gm) and heated to reflux for four days. The mixture was cooled to room temperature and the solvents removed on a rotary evaporator. The residue was dissolved in water (100 ml) and the water solution was washed with ether (2×50 ml). The aqueous solution was made acidic with 3.6 N sulfuric acid and the resulting mixture was extracted with methylene chloride (2×50 ml) and ether (2×50 ml). The combined organic layers were dried over magnesium sulfate and the solvent removed on a rotary evaporator. The residue was dissolved in acetone and purified by preparative centrifugally accelerated radial thin layer chromatography on silica gel using 10% methanol in methylene chloride as eluant. The product was obtained as an off-white solid. Physical data are reported in Table I.

reactant | Ethyl indole-2-carboxylate | 5.87 gm | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | potassium carbonate | 4.3 gm | C([O-])([O-])=O.[K+].[K+]
reactant | formaldehyde | 2.6 gm | C=O | CH2O
solvent | ethanol | 85 ml | C(C)O | C2H6O
product | 3-Hydroxymethylindole-2-carboxylic acid | OCC1=C(NC2=CC=CC=C12)C(=O)O | C10H9NO3
